US06002002
N-(3-nitrophenyl)-N'-(2-hydroxy-3-piperidino-propoxy)-urea
O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine (1,74 g, 0,01 mol) was dissolved in 25 ml abs. chloroform and 1,64 g (0,01 mol) 3-nitrophenyl isocyanate in 20 ml abs. chloroform was added thereto while stirring. After 1 hour reaction the mixture was evaporated and purified by column chromatography. The oil thus obtained was crystallized from diethyl ether. Yield: 1,84 g (54%). Mp.: 137-139° C.

reactant | O-(2-hydroxy-3-piperidino-propyl)-hydroxylamine | 0,01 mol, 1,74 g | OC(CON)CN1CCCCC1 | C8H18N2O2
reactant | 3-nitrophenyl isocyanate | 0,01 mol, 1,64 g | [N+](=O)([O-])C=1C=C(C=CC1)N=C=O | C7H4N2O3
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(3-nitrophenyl)-N'-(2-hydroxy-3-piperidino-propoxy)-urea | [N+](=O)([O-])C=1C=C(C=CC1)NC(=O)NOCC(CN1CCCCC1)O | C15H22N4O5
